US08802661B2
Preparation of dimethyl 2,2′-(2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethylazanediyl)diacetate. Intermediate 24
To a solution of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-aminoethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (20 mg, 0.033 mmol) in acetonitrile (1 mL) and dioxane (1 mL) was added methyl 2-bromoacetate (14.93 mg, 0.098 mmol) and potassium carbonate (22.48 mg, 0.163 mmol). The reaction mixture was heated up at 78° C. for 3 hours. LCMS indicated the formation of desired product and consumption of starting material. The reaction mixture was quenched with distilled water, extracted with DCM (3×3 mL). All the extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the desired product (17 mg, 69%) as white solid. LCMS: m/e 759.7 (M+H)+, 2.88 min (method 1).

reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-aminoethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.033 mmol, 20 mg | NCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C40H58N2O3
reactant | methyl 2-bromoacetate | 0.098 mmol, 14.93 mg | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 0.163 mmol, 22.48 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 1 mL | O1CCOCC1 | C4H8O2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | dimethyl 2,2′-(2-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-9-(4-(methoxycarbonyl)phenyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysene-3a-carboxamido)ethylazanediyl)diacetate | 17 mg, 69% | COC(=O)C1=CC=C(C=C1)C=1C([C@@H]2CC[C@]3([C@@]4(CC[C@@]5([C@@H]([C@H]4CC[C@@H]3[C@]2(CC1)C)[C@@H](CC5)C(=C)C)C(=O)NCCN(CC(=O)OC)CC(=O)OC)C)C)(C)C | C46H66N2O7
